US07405215B2
b.) {3-[2-(4-Methoxy-benzyl)-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl]-5-fluoro-2-methyl-indol-1-yl}-acetic acid
{3-[2-(4-Methoxy-benzyl)-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl]-5-fluoro-2-methyl-indol-1-yl}-acetic acid tert-butyl ester (61 μmol) was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ 8.12 (d, 1H), 7.91 (t, 1H), 7.81 (t, 1H), 7.44 (d, 1H), 7.32 (m, 3H), 6.92 (m, 3H), 6.62 (dd, 1H), 4.99 (bs, 2H), 4.51 (s, 2H), 3.73 (s, 3H), 2.09 (s, 3H) ppm. MS calculated for C26H22FN3O5S—H: 506, observed: 506.

reactant | {3-[2-(4-Methoxy-benzyl)-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl]-5-fluoro-2-methyl-indol-1-yl}-acetic acid tert-butyl ester | 61 μmol | C(C)(C)(C)OC(CN1C(=C(C2=CC(=CC=C12)F)C1=NN(S(C2=C1C=CC=C2)(=O)=O)CC2=CC=C(C=C2)OC)C)=O | C30H30FN3O5S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {3-[2-(4-Methoxy-benzyl)-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl]-5-fluoro-2-methyl-indol-1-yl}-acetic acid | COC1=CC=C(CN2S(C3=C(C(=N2)C2=C(N(C4=CC=C(C=C24)F)CC(=O)O)C)C=CC=C3)(=O)=O)C=C1 | C26H22FN3O5S
